US06900324B2
Synthesis of 8-[(2,6-dimethylbenzyl)amino]-N-(2-hydroxyethyl)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide
A reactor was charged with isopropyl 8-[(2,6-dimethylbenzyl)amino]-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate (11.30 kg, 1 equiv., 27.02 mol) and THF (45 L), ethanolamine (18.97 kg, 11 equiv., 309.2 mol) was added at about 20° C. The suspension was heated to about 100° C. Some solvent was distilled off and then THF (35L) was added and the distillation was continued. The procedure of adding THF and distilling it off was repeated until complete conversion. To the suspension ethanol (140L) was added and the suspension was heated to reflux. To obtain a clear solution additional ethanol (13L) was added. The hot solution was filtered and then cooled. The white solid was filtered off, washed with ethanol and dried to yield the product as a white powder. (8271 g).

reactant | isopropyl 8-[(2,6-dimethylbenzyl)amino]-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxylate | 27.02 mol, 11.30 kg, 1 equiv. | CC1=C(CNC=2C=3N(C=C(C2)C(=O)OC(C)C)C(=C(N3)C)C)C(=CC=C1)C | C22H27N3O2
reactant | ethanolamine | 309.2 mol, 18.97 kg, 11 equiv. | C(O)CN | C2H7NO
solvent | THF | 45 L | C1CCOC1 | C4H8O
product | 8-[(2,6-dimethylbenzyl)amino]-N-(2-hydroxyethyl)-2,3-dimethylimidazo[1,2-a]pyridine-6-carboxamide | CC1=C(CNC=2C=3N(C=C(C2)C(=O)NCCO)C(=C(N3)C)C)C(=CC=C1)C | C21H26N4O2
